US07977352B2
(E)-N-(6-chloro-3-iodopyridin-2-yl)-N′-hydroxyformimidamide (6.0 g, 0.02 mol) is treated with polyphosphoric acid (40 g) at 80° C. for 4 h with stirring. The reaction mixture is diluted with cold water (100 mL), and then neutralized with 10 N aq. sodium hydroxide solution to pH 8. The aqueous solution is extracted with dichloromethane (100 mL×3). The combined organic extracts are washed with saturated aq. sodium bicarbonate solution (50 mL), brine (30 mL×3), dried over sodium sulfate, filtered, and filtrate concentrated to afford 5-Chloro-8-iodo-[1,2,4]triazolo[1,5-a]pyridine (5.6 g, 94%) as an off-white solid. LCMS Purity: 95% by UV 254 nm detection; LCMS-ESI (m/z): calcd for C6H3ClIN3, 278.9; [M+H]+ found, 279.9. 1H NMR (300 MHz, DMSO-d6) δ 8.63 (s, 1H), 8.15 (d, J=7.8 Hz, 1H), 7.29 (d, J=7.8 Hz, 1H).

reactant | (E)-N-(6-chloro-3-iodopyridin-2-yl)-N′-hydroxyformimidamide | 0.02 mol, 6.0 g | ClC1=CC=C(C(=N1)N\C=N\O)I | C6H5ClIN3O
reactant | sodium hydroxide | 10 N | [OH-].[Na+]
solvent | water | 100 mL | O | H2O
product | 5-Chloro-8-iodo-[1,2,4]triazolo[1,5-a]pyridine | 5.6 g, 94% | ClC1=CC=C(C=2N1N=CN2)I | C6H3ClIN3
